US05981551
Preparation of 2,5-bis[2-benzimidazolylimino]-3a-(2-pyridyl)-6a-phenyl-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole
Following the procedure of Example 1, 1 -phenyl-2-(2-pyridinyl)ethanedione (800 mg, 3.79 mmol) and 2-guanidinobenzimidazole (560 mg, 3.15 mmol) in methanol (20 mL) was treated with a solution of sodium hydroxide (40 mg, 1.0 mmol) in 1 mL of water. The title compound was isolated as pale yellow crystals (160 mg, 20% yield). 1H NMR (300 z, d6 -DMSO) δ 12.0 (br. s, NH, 1H) 11.5 (br s, NH, 2 H), 10.0 (br s, NH, I H), 8.6 br s, NH, 1 H), 8A1 (m, 2 H), 7.55 (t, J=6.9 Hz, 2 H), 7.30-7.10 (m, 8 H), 6.98 (dd, J=6.0, 3.1 Hz, 4 H); MS (ESI) m/z 526 [M+H+.

reactant | 1 -phenyl-2-(2-pyridinyl)ethanedione | 3.79 mmol, 800 mg | C1(=CC=CC=C1)C(C(=O)C1=NC=CC=C1)=O | C13H9NO2
reactant | 2-guanidinobenzimidazole | 3.15 mmol, 560 mg | N(C(=N)N)C=1NC2=C(N1)C=CC=C2 | C8H9N5
reactant | sodium hydroxide | 1.0 mmol, 40 mg | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 2,5-bis[2-benzimidazolylimino]-3a-(2-pyridyl)-6a-phenyl-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole | N1=C(NC2=C1C=CC=C2)N=C2NC1(C(NC(N1)=NC=1NC3=C(N1)C=CC=C3)(N2)C2=CC=CC=C2)C2=NC=CC=C2 | C29H23N11
